US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-bromoacetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
To a mixture of 180 mg (0.765 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole, 117 μl (0.842 m mol) of triethylamine and 20 ml of methylene chloride were added 73 μl (0.842 m mol) of bromoacetyl chloride with stirring at the room temperature, followed by further stirring for 1 hour. After the completion of the reaction, the precipitated crystal was filtered to obtain 199 mg of the intended compound. (yield: 73%).

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 180 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | triethylamine | 117 μl | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl chloride | 73 μl | BrCC(=O)Cl | C2H2BrClO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-bromoacetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 199 mg, yield: 73% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(CBr)=O)O)C | C13H14BrN3O4
